US04007194
The novel intermediates of the present invention originate from a novel process which utilizes dihydro=resorcinol as the starting material. That substance thus is allowed to react with a chlorinating reagent such as phosphorus trichloride to afford 3-chloro-2-cyclohexen-1-one. Reaction with cyanoacetamide and sodium hydride results in α-cyano-3-oxo-1-cyclohexen-1-acetamide, which is contacted with a dialkylformamide acetal, for example dimethylformamide diethyl acetal or dimethylformamide dineopentyl acetal, to produce 2,3,5,6,7,8-hexahydro-3,8-dioxo-4-isoquinolinecarboni=trile. Elimination of the cyano group is effected by heating with hydrobromic acid, thus affording 2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione. Heating with an alkyl, trialkylsilyl or cycloalkyl halide produces the corresponding 6-alkoxy, 6-trialkylsilyloxy and 6-cycloalkoxy 7-aza-1-tetralones together with the N-alkylated or N-cycloalkylated derivatives. Typically, 2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione is heated in benzene at the reflux temperature with methyl iodide and silver carbonate to yield 7-aza-6-methoxy-1-tetra=lone together with 2-methyl-2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione. The reaction of the keto group of the latter tetralone with vinyl magnesium chloride results in 7-aza-6-methoxy-1-vinyl-1-tetralol, which is contacted with a 2-(lower alkyl)cyclopentane-1,3-dione, such as 2-methylcyclopentane-1,3-dione, in the presence of a basic catalyst such as triethylamine to afford 5,6,7,8-tetrahydro-3-methoxy-8-[(2-methyl-1,3-dioxocylopent-2-yl)ethylidene]isoquinoline. Alternatively, the tetralol is converted to the iso-thiouronium salt, which is reacted with the dione to afford the latter product. Cyclization of the latter diketone, suitably in the presence of p-toluenesulfonic acid, results in dl-2-aza-3-methoxyestra-1,3,5(10), 8,14-pentaen-17-one. Catalytic hydrogenation, using a palladium-on-calcium carbonate catalyst effects saturation of the 14-double bond, thus producing dl-2-aza-3-methoxyestra-1,3,5(10),8-tetraen-17-one, while chemical reduction, for example with sodium borohydride, converts the 17-keto group, thus yielding dl-2-aza-3-methoxyestra-1,3,5(10),8,14-pentaen-17β-ol. The 14-double bond of the latter substance is catalytically reduced, using a palladium-on-calcium carbonate catalyst, to yield dl-2-aza-3-methoxy=estra-1,3,5(10),8-tetraen-17β-ol, which is allowed to react with sodium in liquid ammonia to afford dl-2 -aza-3-methoxyestra-1,3,5(10)-trien-17β-ol.

reactant | 2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione | C=1NC(C=C2CCCC(C12)=O)=O | C9H9NO2
reactant | methyl iodide | CI | CH3I
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | silver carbonate | C([O-])([O-])=O.[Ag+2]
product | 2-methyl-2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione | CN1C=C2C(CCCC2=CC1=O)=O | C10H11NO2
